US04363816
1,2,3-Trimethyl-4-[(4-methyl-1-piperazinyl)acetyl]-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one
289 g of 4-chloroacetyl-1,2,3-trimethyl-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one, 200 mg of N-methylpiperazine and 10 ml of dry dioxane are warmed at 70° to 80° C. for 2.5 hours. 10 ml of saturated aqueous sodium bicarbonate solution are added thereto, and the resulting mixture is extracted several times with ethyl acetate. The combined extracts are dried over sodium sulfate and concentrated in vacuo. The resulting oil is taken up in a little dioxane/acetonitrile and is brought to crystallization.

reactant | 4-chloroacetyl-1,2,3-trimethyl-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one | 289 g | ClCC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)N(C(=C2C)C)C | C16H16ClN3O2
reactant | N-methylpiperazine | 200 mg | CN1CCNCC1 | C5H12N2
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1,2,3-Trimethyl-4-[(4-methyl-1-piperazinyl)acetyl]-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one | CN1C(=C(C=2N(C3=C(NC(C21)=O)C=CC=C3)C(CN3CCN(CC3)C)=O)C)C | C21H27N5O2
